US07875606B2
4.21 g (9.0 mmoles) of sodium methyl thioalcoholate (in the form of a 15% aqueous solution) was added, at room temperature, into a solution of 1.08 g (3.0 mmoles) of 5-chloromethyl-3-(1-ethyl-5-fluoro-3-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-5-methyl-2-isoxazoline dissolved in 10 ml of N,N-dimethylformamide. The mixture was stirred at room temperature overnight to give rise to a reaction. After the completion of the reaction, the reaction mixture was poured into water and extraction with ethyl acetate was conducted. The resulting organic layer was washed with water and an aqueous sodium chloride solution in this order and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to reduced pressure distillation to remove the solvent contained therein to obtain a crude product of 5-chloromethyl-3-(1-ethyl-5-methylthio-3-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-5-methyl-2-isoxazoline.

reactant | sodium methyl thioalcoholate | 9.0 mmoles, 4.21 g | CS[O-].[Na+]
reactant | 5-chloromethyl-3-(1-ethyl-5-fluoro-3-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-5-methyl-2-isoxazoline | 3.0 mmoles, 1.08 g | ClCC1(CC(=NO1)SCC=1C(=NN(C1F)CC)C(F)(F)F)C | C12H14ClF4N3OS
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-chloromethyl-3-(1-ethyl-5-methylthio-3-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-5-methyl-2-isoxazoline | ClCC1(CC(=NO1)SCC=1C(=NN(C1SC)CC)C(F)(F)F)C | C13H17ClF3N3OS2
